US04939170
EXAMPLE A3: 2,6-Dichloro-3,5-difluorophenol
50 g of 3,5-dichloro-2,6-difluoro-4-hydroxy-benzoic acid and 10 ml of dimethylformamide are mixed and heated. At 105°-130° C., carbon dioxide evolves, and the reaction is allowed to run to completion at this temperature. 200 ml of toluene and then 80 ml of water are subsequently stirred into the mixture, the phases are separated, and the organic phase is dried and subsequently distilled. 34 g product of boiling point 87°-8° C. are obtained; nD20 : 1.5310.

reactant | 3,5-dichloro-2,6-difluoro-4-hydroxy-benzoic acid | 50 g | ClC=1C(=C(C(=O)O)C(=C(C1O)Cl)F)F | C7H2Cl2F2O3
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | carbon dioxide | C(=O)=O | CO2
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 ml | O | H2O
product | 2,6-Dichloro-3,5-difluorophenol | 34 g | ClC1=C(C(=C(C=C1F)F)Cl)O | C6H2Cl2F2O
